data/oMe_Silver.jsonl
{"reaction_id": "NR-334_1-c1ccc([N+](=O)[O-])cc1_2-c1ccc2ccccc2c1_3-C_4-C","level": "medium","name": "Ritter Reaction","reactants_smiles": ["N#Cc1ccc([N+](=O)[O-])cc1","OC(c1ccc2ccccc2c1)(C)C"],"products_smiles": ["C(=O)(NC(c1ccc2ccccc2c1)(C)C)c1ccc([N+](=O)[O-])cc1"],"conditions": "H2SO4, H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(c1ccc2ccccc2c1)(C)C","step_weight": 0,"rationale": "Protonation of the alcohol oxygen increases its leaving group ability by converting OH into water, a much better leaving group under acidic conditions."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C+](c1ccc2ccccc2c1)(C)C","step_weight": 0,"rationale": "Loss of water generates a carbocation stabilized by adjacent alkyl groups through hyperconjugation and inductive effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(#[N+]C(c1ccc2ccccc2c1)(C)C)c1ccc([N+](=O)[O-])cc1","step_weight": 0,"rationale": "The nitrile nitrogen, being nucleophilic, attacks the carbocation, forming a nitrilium ion stabilized by resonance with the triple bond."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=NC(c1ccc2ccccc2c1)(C)C)([OH2+])c1ccc([N+](=O)[O-])cc1","step_weight": 0,"rationale": "Water, activated by the acidic medium, adds to the electrophilic carbon of the nitrilium ion, forming a protonated imidate intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=NC(c1ccc2ccccc2c1)(C)C)(O)c1ccc([N+](=O)[O-])cc1","step_weight": 0,"rationale": "Deprotonation of the protonated imidate oxygen restores neutrality, yielding the neutral imidic acid form."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(NC(c1ccc2ccccc2c1)(C)C)c1ccc([N+](=O)[O-])cc1","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the imidic acid to the more thermodynamically stable amide via proton transfers."}],"description": "Under strong acid, the alcohol is protonated and loses water to form a stable carbocation. The nitrile attacks, forming an iminium intermediate, which is then hydrated and tautomerizes to the amide. Acid catalysis drives each step by stabilizing intermediates and activating electrophiles."}
{"reaction_id": "NR-313_1-Cl_2-N(C)C_3-OC(F)(F)F_4-Cl_5-Br","level": "easy","name": "Ullmann Coupling","reactants_smiles": ["c1(Cl)c(N(C)C)c(OC(F)(F)F)c(Cl)c(Br)c1I"],"products_smiles": ["c1(Cl)c(N(C)C)c(OC(F)(F)F)c(Cl)c(Br)c1c2c(Cl)c(N(C)C)c(OC(F)(F)F)c(Cl)c2(Br)"],"conditions": "Cu","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(Cl)c(N(C)C)c(OC(F)(F)F)c(Cl)c(Br)c1[Cu]I","step_weight": 0,"rationale": "Cu(0) inserts into the aryl–iodine bond via oxidative addition because iodine is a good leaving group and the aryl–Cu bond is stabilized by π-backbonding from the aromatic ring."},{"step": 2,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "c1(Cl)c(N(C)C)c(OC(F)(F)F)c(Cl)c(Br)c1[Cu]","step_weight": 0,"rationale": "Single-electron transfer from Cu to the aryl fragment generates a reactive aryl radical, favored by the low ionization potential of Cu and the stability of the aryl radical through resonance."},{"step": 3,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(Cl)c(N(C)C)c(OC(F)(F)F)c(Cl)c(Br)c1[Cu](I)c2c(Cl)c(N(C)C)c(OC(F)(F)F)c(Cl)c2(Br)","step_weight": 0,"rationale": "A second oxidative addition occurs with another aryl iodide, driven by the high reactivity of the aryl radical and the good leaving ability of iodide, forming a bis-aryl copper(III) species."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(Cl)c(N(C)C)c(OC(F)(F)F)c(Cl)c(Br)c1c2c(Cl)c(N(C)C)c(OC(F)(F)F)c(Cl)c2(Br)","step_weight": 0,"rationale": "Reductive elimination from the Cu(III) complex forms the biaryl product, favored by the thermodynamic stability of the C–C bond and the regeneration of the lower oxidation state Cu catalyst."}],"description": "In the Ullmann coupling, copper mediates the formation of a biaryl bond from aryl iodides. Copper undergoes oxidative addition to the aryl halide, facilitates electron transfer, and couples two aryl groups via a second oxidative addition followed by reductive elimination, forming the C–C bond."}
